Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH notable for hair 
cell leukemia who presents with fever after recent chemotherapy.

The patient was diagnosed with hair cell leukemia in ___ on 
bone marrow biopsy after a work up for pancytopenia in the 
setting of chronic fatigue, which as become progressively worse. 
Subsequently, his oncologist decided to pursue treatment 
starting in ___. He started cycle 1 of treatment with 
cladribine on ___ for a planned total of 5 infusions, which he 
finished on ___. That evening, he measured his temperature at 
home, which was initially 97.4. Then, he started getting 
feelings of chills, and repeated his temperature at 99. Then, he 
started having stronger shaking and sweatiness, at which time he 
found his temp to be 101.2. He called his oncologist's office 
and was instructed to come to the ED. Aside from fevers and 
rigors, he had no significant associated symptoms, such as 
headache, neck pain, cough, sore throat, shortness of breath, 
cough, chest pain, nausea, vomiting, diarrhea, abdominal pain, 
dysuria, or hives/rashes.

In the ___ ED, he received cefepime and vancomycin. The 
on-call oncologist recommended admission given that he will 
likely reach a nadir for neutropenia in a few days and needs 
observation.
 
Past Medical History:
- ADHD, predominantly inattentive type
- Hyperlipidemia 
- Obesity 
- Family history of colon cancer 
- Nephrolithiasis 
- Hypertension, essential, benign 
- Fatty liver 
- Diverticula of colon 
- Insomnia 
- Restless leg 
- Mild Celiac Sprue 
- BPH (benign prostatic hyperplasia) 
- Depression 
- Polyarthritis 
- Acute meniscal tear of left knee 
- Exposure to hepatitis B 
- OSA (obstructive sleep apnea) 
- Hairy cell leukemia not having achieved remission 
- Splenomegaly  
- History of nonmelanoma skin cancer 
 
Social History:
___
Family History:
Extensive history of cancers in many family members, notably 
mother died of metastatic breast cancer at age ___. Brother has 
esophageal dysplasia. Maternal aunt had ovarian cancer. Maternal 
grandmother and grandfather had colon cancers.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VITALS: ___ 1117 Temp: 98.1 PO BP: 137/77 L Sitting HR: 64 
RR: 20 O2 sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain 
Score: ___ Pedal Pulses: Left DPP: + Right DPP: + 
GENERAL: Alert and in no apparent distress.
EYES: Anicteric, normal conjunctivae. Pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4. No peripheral edema.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present. No hepatomegaly or splenomegaly.
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted. No indurations or masses 
felt.
NEURO: Face symmetric, gaze conjugate with EOMI, speech fluent. 
Sensation to light touch grossly intact throughout.
PSYCH: Good insight and judgment. Alert and oriented. Normal 
memory. Pleasant affect.

DISCHARGE PHYSICAL EXAMINATION:
VITALS: ___ 0756 Temp: 98.4 PO BP: 129/80 R Sitting HR: 66 
RR: 18 O2 sat: 97% O2 delivery: Ra 
GEN: Well appearing in no acute distress
EYES: Anicteric, no conjunctival injection, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-tender in all quadrants, non-distended. No 
rebound or guarding.
EXT: Warm and well perfused. No ___ edema.
NEURO: Alert, oriented, face symmetric, gaze conjugate with EOM, 
speech fluent, moves all limbs
PSYCH: pleasant, appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
___ 03:02AM   PLT COUNT-97*
___ 03:02AM   NEUTS-79.0* LYMPHS-15.5* MONOS-0.7* EOS-3.4 
BASOS-0.7 NUC RBCS-1.4* IM ___ AbsNeut-1.17* AbsLymp-0.23* 
AbsMono-0.01* AbsEos-0.05 AbsBaso-0.01
___ 03:02AM   WBC-1.5* RBC-3.02* HGB-9.2* HCT-28.3* MCV-94 
MCH-30.5 MCHC-32.5 RDW-18.7* RDWSD-64.3*
___ 03:02AM   CALCIUM-9.0 PHOSPHATE-3.7 MAGNESIUM-2.2
___ 03:02AM   GLUCOSE-115* UREA N-13 CREAT-0.9 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-22 ANION GAP-13
___ 03:11AM   LACTATE-1.3
___ 03:27AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:27AM URINE  COLOR-Straw APPEAR-Clear SP ___

DISCHARGE LABS
___ 06:47AM BLOOD WBC-0.7* RBC-2.76* Hgb-8.5* Hct-26.2* 
MCV-95 MCH-30.8 MCHC-32.4 RDW-18.3* RDWSD-64.1* Plt ___
___ 06:47AM BLOOD Neuts-64 Bands-0 ___ Monos-0 Eos-4 
Baso-0 ___ Myelos-0 AbsNeut-0.45* AbsLymp-0.22* 
AbsMono-0.00* AbsEos-0.03* AbsBaso-0.00*

MICRO
Blood cultures NGTD
Urine culture negative

CHEST (PA & LAT) Study Date of ___ 3:15 AM 
FINDINGS:
The cardiomediastinal silhouette is within normal limits.  No 
dense consolidative opacity.  No pneumothorax.  No new pleural 
effusion.  Degenerative change of the thoracic spine.  Moderate 
degenerative change of the right AC joint.   
IMPRESSION:  
No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
Mr. ___ is a ___ male with a PMH notable for hair 
cell leukemia who presents with fever after recent chemotherapy, 
and is found to have neutropenia. No localizing source of 
infection so far discovered.

ACUTE/ACTIVE PROBLEMS:
# Neutropenia
# Fever
No clear source of infection and no indwelling line. Fever 
occurred with ANC above 1,000 so relatively low risk. Cladribine 
apparently can cause fever as well. So far, cultures are 
negative. Stopped cefepime on ___ without any further fevers. 
___ continued to trend down to 450 on day of discharge. Care was 
discussed with on call Atrius oncology who was comfortable with 
discharge. Patient will follow up with his outpatient oncologist 
as scheduled on ___.

# Previous HBC Infection
- Entecavir 0.5 mg PO DAILY prophylaxis while on chemotherapy to 
prevent reactivation

CHRONIC/STABLE PROBLEMS:
# Hypertension
- Hydrochlorothiazide 25 mg PO DAILY 
- Lisinopril 5 mg PO DAILY 

# GERD
- Omeprazole 20 mg PO BID (prescribed as BID, only taking daily)

TRANSITIONAL ISSUES:
[ ] Blood cultures from ___ NGTD
[ ] Outpatient oncology follow up as previously scheduled

**Patient was seen and examined today and is stable for 
discharge. Greater than 30 minutes were spent in discharge 
coordination and planning.**
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Entecavir 0.5 mg PO DAILY 
2. Prochlorperazine 10 mg PO Q6H:PRN nausea 
3. Omeprazole 20 mg PO BID 
4. Lisinopril 5 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Entecavir 0.5 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Lisinopril 5 mg PO DAILY  
5.  Omeprazole 20 mg PO BID  
6.  Prochlorperazine 10 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Neutropenia
Hairy cell leukemia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for fevers and neutropenia (low white blood 
cells). We initially started you on antibiotics but these were 
stopped and you were closely monitored. You had no further 
fevers and did not show any signs of having an infection.

We think your fever may have been caused by your chemotherapy.

You continue to have low white blood cells which puts you at 
risk for serious infections. If you have another fever you 
should call your oncologist right away or return to the 
hospital. You should avoid anyone who seems to be ill or wear a 
mask for your protection.

You should follow up with your oncologist as previously 
scheduled. No changes were made to your home medications.

It was a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___